US04675316
A. p-chlorophenyl pentyl sulfide
To a solution of 8.0 g (0.2 mole) of sodium hydroxide in 100 ml of water is added 29 g (0.2 mole) of p-chlorothiophenol in small portions. Stirring is continued until the mixture becomes clear. To this solution is added 30.2 g (0.2 mole) of pentyl bromide dropwise. The reaction mixture is heated at 60° C. for one hour. It is then poured into water and extracted with ether. The combined ether extracts are washed with water and dried over MgSO4. Solvent is evaporated to give a pale yellow oil which is purified further by vacuum distillation (85°-8°/0.03 mm) to give 15 g of pure product.

reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
reactant | p-chlorothiophenol | 0.2 mole, 29 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | pentyl bromide | 0.2 mole, 30.2 g | C(CCCC)Br | C5H11Br
solvent | water | 100 ml | O | H2O
product | p-chlorophenyl pentyl sulfide | 15 g | C(CCCC)SC1=CC=C(C=C1)Cl | C11H15ClS
